US05859084
i) 4-(chloromethyl)benzophenone
196.2 g of 4-methylbenzophenone are dissolved in chlorobenzene and then gassed at 80° C. in the presence of 1.6 g of AIBN (azodiisobutyronitrile) with a total of 71.0 g of chlorine. The reaction mixture is concentrated and the solid material obtained recrystallized from 1 L of ethanol.

reactant | 4-methylbenzophenone | 196.2 g | CC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H12O
reactant | AIBN | 1.6 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | chlorine | 71.0 g | ClCl | Cl2
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(chloromethyl)benzophenone | ClCC1=CC=C(C(=O)C2=CC=CC=C2)C=C1 | C14H11ClO
